* Файл библиотеки: my_library.sub
* Здесь хранятся только субсхемы

.subckt test_div in out gnd r1=1k r2=1k
    r1 in out {r1}
    r2 out gnd {r2}
.ends
