* SEN_SOLAR — субсхема из нетлиста KiCad + YAML
.subckt SEN_SOLAR GND SOLAR_ADC SOLAR_RAW
  C26 SOLAR_ADC GND 100n
  R27 SOLAR_RAW SOLAR_ADC 10k
  R28 SOLAR_ADC GND 20k
.ends SEN_SOLAR
